US07163954B2
A mixture of 6-methoxy-2-bromonaphthol (20.1 g, 66.6 mmol) and cesium carbonate (43.2 g, 133 mmol) in acetone (200 mL) was stirred at ambient temperature for one hour. Ethyl bromoacetate (8.8 mL, 80 mmol) was then added. The reaction mixture was stirred for 23 hours at ambient temperature. The insoluble material was then filtered off, and the acetone filtrate was solvent evaporated. It was then partitioned in water and ethyl acetate. The organic phase was washed with water and brine. It was then dried with anhydrous magnesium sulfate, filtered and solvent evaporated. The resulting residue was stirred in hexane for 10 minutes, filtered and rinsed with hexane. It was then dried at 64° C. in vacuo for 25 hours to yield (1,6-dibromo-naphthalen-2-yloxy)-acetic acid ethyl ester as a light yellow solid (19.5 g, 75.6%): MP: 104–6° C.; mass spectrum (+EI, M+) m/z 388. 1H NMR (500 MHz, DMSO-d6): δ8.24 (d, 1H, J=1.99 Hz), 8.03 (d, 1H, J=9.01 Hz), 7.95 (d, 1H, J=9.01 Hz), 7.75 (dd, 1H, J=9.09 Hz and 2.07 Hz), 7.47 (d, 1H,J=9.17 Hz), 5.07 (s, 2H), 4.17 (q, 2H, J=7.07 Hz), 1.21 ppm (t, 3H, J=7.07 Hz). Elemental Analysis for C14H12Br2O3: Calcd: C, 43.33; H, 3.12; N, 0.00; Found: C, 43.40; H, 3.10; N, 0.00.

reactant | 6-methoxy-2-bromonaphthol | 66.6 mmol, 20.1 g | COC=1C=C2C=CC(=C(C2=CC1)O)Br | C11H9BrO2
reactant | cesium carbonate | 133 mmol, 43.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl bromoacetate | 80 mmol, 8.8 mL | BrCC(=O)OCC | C4H7BrO2
reactant | acetone | 200 mL | CC(=O)C | C3H6O
product | (1,6-dibromo-naphthalen-2-yloxy)-acetic acid ethyl ester | 19.5 g, 75.6% | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)Br)Br)=O | C14H12Br2O3
